US07981874B2
N-(2-Amino-5-thiophen-2-yl-phenyl)-4-(5,5-dimethyl-2-oxo-2λ5-[1,3,2]dioxaphosphinan-2-ylmethyl)-benzamide.
4-(5,5-Dimethyl-2-oxo-2λ5-[1,3,2]dioxaphosphinan-2-ylmethyl)-benzoic acid (100 mg, 0.35 mmol), (2-amino-4-thiophen-2-yl-phenyl)-carbamic acid tert-butyl ester (123 mg, 0.42 mmol), EDC (81 mg, 0.42 mmol), HOBT (54 mg, 0.35 mmol), and DIPEA (136 mg, 1.05 mmol) were combined and diluted with DMF (1.4 mL). The resulting mixture was stirred at ambient temperature for 18 hours. The reaction mixture was purified directly by HPLC (20-85% MeCN in water w/0.025% TFA). Pure fractions were identified, combined and concentrated in vacuo. The residue was diluted with 10:1 DCM:TFA and stirred at ambient temperature for 2 hours. The mixture was then concentrated in vacuo to afford the title compound: 1H NMR (DMSO-d6, 600 MHz) δ 9.85 (s, 1H), 7.93 (d, J=7.2 Hz, 2H), 7.50 (s, 1H), 7.43 (d, J=7.2 Hz, 2H), 7.34-7.40 (m, 2H), 7.28-7.30 (m, 1H), 7.03-7.06 (m, 1H), 6.90-6.92 (m, 1H), 4.20-4.25 (m, 2H), 4.01 (br-s, 2H), 3.87-3.94 (m, 2H), 3.52 (d, J=20.4 Hz, 2H), 1.08 (s, 3H), 0.84 (s, 3H). MS: cal'd 457 (MH+), exp 457 (MH+).

reactant | 4-(5,5-Dimethyl-2-oxo-2λ5-[1,3,2]dioxaphosphinan-2-ylmethyl)-benzoic acid | 0.35 mmol, 100 mg | CC1(COP(OC1)(=O)CC1=CC=C(C(=O)O)C=C1)C | C13H17O5P
reactant | (2-amino-4-thiophen-2-yl-phenyl)-carbamic acid tert-butyl ester | 0.42 mmol, 123 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C=1SC=CC1)N)=O | C15H18N2O2S
reactant | EDC | 0.42 mmol, 81 mg
reactant | HOBT | 0.35 mmol, 54 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 1.05 mmol, 136 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1.4 mL | CN(C)C=O | C3H7NO
product | N-(2-Amino-5-thiophen-2-yl-phenyl)-4-(5,5-dimethyl-2-oxo-2λ5-[1,3,2]dioxaphosphinan-2-ylmethyl)-benzamide | NC1=C(C=C(C=C1)C=1SC=CC1)NC(C1=CC=C(C=C1)CP1(OCC(CO1)(C)C)=O)=O | C23H25N2O4PS
